US07855227B2
Step E [2-[4-Fluoro-3-(2,2,2-trifluoro-ethoxy)-phenyl]-ethyl]-(tetrahydrofuran-3-ylmethyl)amine
A mixture of 500 mg (2.1 mmol) of 2-[4-fluoro-3-(2,2,2-trifluoro-ethoxy)-phenyl]-ethylamine, 210 mg (2.1 mmol) of tetrahydrofuran-3-carbaldehyde and 2 g of 4 Å molecular sieves in 30 ml of dry dichloromethane was stirred at room temperature for 30 minutes. 630 mg (2.9 mmol) of NaBH(OAc)3 were added portionwise. The reaction mixture was stirred for 4 hours at room temperature. An aqueous 5% solution of NaHCO3 was added and the product was extracted with dichloromethane. The crude product was purified by flash chromatography (dichloromethane/methanol/NH3 100:9:0.5 v:v:v). 300 mg (44% yield) of the title compound were isolated as an oil.

reactant | 2-[4-fluoro-3-(2,2,2-trifluoro-ethoxy)-phenyl]-ethylamine | 2.1 mmol, 500 mg | FC1=C(C=C(C=C1)CCN)OCC(F)(F)F | C10H11F4NO
reactant | tetrahydrofuran-3-carbaldehyde | 2.1 mmol, 210 mg | O1CC(CC1)C=O | C5H8O2
reactant | NaBH(OAc)3 | 2.9 mmol, 630 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | [2-[4-Fluoro-3-(2,2,2-trifluoro-ethoxy)-phenyl]-ethyl]-(tetrahydrofuran-3-ylmethyl)amine | 300 mg, 44% yield | FC1=C(C=C(C=C1)CCNCC1COCC1)OCC(F)(F)F | C15H19F4NO2
